US08076491B2
4-((N-(4-fluorobenzyl)-4-methylphenylsulfonamido)methyl)benzoic acid
Prepared as in example 5-11 from 4-(aminomethyl)phenylcarboxylic acid, 4-methylbenzene-1-sulfonylchloride and 4-fluorobenzyl bromide. 1H NMR (400 MHz, DMSO-d6): δ, ppm: 3.11 (s, 3H), 4.21 (s, 2H), 4.24 (s, 2H), 6.94-7.08 (m, 6H), 7.40-7.42 (d, 2H, J=8 Hz), 7.63 (d, 2H, J=8 Hz). 7.73 (d, 2H, J=8 Hz)

reactant | 4-(aminomethyl)phenylcarboxylic acid | NCC1=CC=C(C=C1)C(=O)O | C8H9NO2
reactant | 4-methylbenzene-1-sulfonylchloride | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | 4-fluorobenzyl bromide | FC1=CC=C(CBr)C=C1 | C7H6BrF
product | 4-((N-(4-fluorobenzyl)-4-methylphenylsulfonamido)methyl)benzoic acid | FC1=CC=C(CN(S(=O)(=O)C2=CC=C(C=C2)C)CC2=CC=C(C(=O)O)C=C2)C=C1 | C22H20FNO4S
